US08431575B2
A mixture of 4-{6-butyl-5-[4-cyclohexyloxy-3-(1H-pyrazol-4-yl)-phenyl]-pyridazin-3-yloxy}-piperidine-1-carboxylic acid tert-butyl ester (0.14 mmol, 80.6 mg), potassium tert-butoxide (0.15 mmol, 17.2 mg, 98%) and THF (1 mL) was stirred at room temperature for 40 min. 1-Bromo-2-methoxy-ethane (0.17 mmol, 0.016 mL) was added and it was stirred for 2.5 h. More potassium tert-butoxide (0.30 mmol, 34.4 mg, 98%) was added and after stirring for 30 min, more 1-bromo-2-methoxy-ethane (0.34 mmol, 0.032 mL) was added. It was stirred overnight. The reaction mixture was partitioned between ethyl acetate (10 mL) and saturated aq. sodium bicarbonate solution (10 mL). The ethyl acetate layer was dried over sodium sulfate. Purification by column chromatography on silica gel using 20-100% ethyl acetate in hexanes to provide 4-(6-butyl-5-{4-cyclohexyloxy-3-[1-(2-methoxy-ethyl)-1H-pyrazol-4-yl]-phenyl}-pyridazin-3-yloxy)-piperidine-1-carboxylic acid tert-butyl ester as colorless solid (59.5 mg).

reactant | 4-{6-butyl-5-[4-cyclohexyloxy-3-(1H-pyrazol-4-yl)-phenyl]-pyridazin-3-yloxy}-piperidine-1-carboxylic acid tert-butyl ester | 0.14 mmol, 80.6 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1N=NC(=C(C1)C1=CC(=C(C=C1)OC1CCCCC1)C=1C=NNC1)CCCC | C33H45N5O4
reactant | potassium tert-butoxide | 0.15 mmol, 17.2 mg | CC(C)([O-])C.[K+]
reactant | 1-Bromo-2-methoxy-ethane | 0.17 mmol, 0.016 mL | BrCCOC | C3H7BrO
reactant | potassium tert-butoxide | 0.30 mmol, 34.4 mg | CC(C)([O-])C.[K+]
reactant | 1-bromo-2-methoxy-ethane | 0.34 mmol, 0.032 mL | BrCCOC | C3H7BrO
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-(6-butyl-5-{4-cyclohexyloxy-3-[1-(2-methoxy-ethyl)-1H-pyrazol-4-yl]-phenyl}-pyridazin-3-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 59.5 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1N=NC(=C(C1)C1=CC(=C(C=C1)OC1CCCCC1)C=1C=NN(C1)CCOC)CCCC | C36H51N5O5
